US07030138B2
N-[4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-carbamoylphenyl]-N-[3-(3-cyanophenyl)-2-(E)-propenyl]ethanesulfonamide
To a suspension of 3-[3-[N-[4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-carbamoylphenyl]amino]-1-(E)-propenyl]benzonitrile (0.92 g) obtained in reference example 130 in dichloromethane (15 ml) were successively added dropwise ethanesulfonyl chloride (0.22 ml) and pyridine (0.31 ml) with stirring under ice-cooling, and the resulting mixture was stirred at room temperature overnight. At the end of this time, to the reaction mixture were furthermore added dropwise ethanesulfonyl chloride (0.04 ml) and pyridine (0.16 ml) with stirring under ice-cooling, and the resulting mixture was stirred at room temperature for 5 hours. After stirring, to the reaction mixture was added methanol (3 ml), and the resulting mixture was evaporated in vacuo. The residue obtained was purified by chromatography on a silica gel column using a mixed solvent of dichloromethane and methanol (10:0˜9:1) as the eluent to afford the title compound (1.08 g, yield: 90%) as a yellow oil.

reactant | 3-[3-[N-[4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-carbamoylphenyl]amino]-1-(E)-propenyl]benzonitrile | 0.92 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)NC/C=C/C=1C=C(C#N)C=CC1)C(N)=O | C27H32N4O4
reactant | ethanesulfonyl chloride | 0.22 ml | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | pyridine | 0.31 ml | N1=CC=CC=C1 | C5H5N
reactant | ethanesulfonyl chloride | 0.04 ml | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | pyridine | 0.16 ml | N1=CC=CC=C1 | C5H5N
reactant | methanol | 3 ml | CO | CH4O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-[4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-carbamoylphenyl]-N-[3-(3-cyanophenyl)-2-(E)-propenyl]ethanesulfonamide | 1.08 g, yield: 90% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)N(S(=O)(=O)CC)C\C=C\C1=CC(=CC=C1)C#N)C(N)=O | C29H36N4O6S
